US07691892B2
4-(4-Methyl-5-methylsulfanyl-4H-[1,2,4]triazol-3-yl)-pyridine
To a solution of 4-Methyl-5-pyridin-4-yl-2,4-dihydro-[1,2,4]triazole-3-thione (1000 mg, 5.20 mmol) in 1M sodium hydroxide (10 mL), added a solution of iodomethane (0.52 mL, 8.32 mmol) in ethanol (3 mL). Stirred at RT overnight. Extracted into 200 mL dichloromethane and washed with brine (50 mL). Dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield title compound (1.00 g, 94% yield). 1H-NMR (CDCl3) δ (ppm): 8.81 (d, 2H), 7.62 (d, 2H), 3.68 (s, 3H), 2.82 (s, 3H).

reactant | 4-Methyl-5-pyridin-4-yl-2,4-dihydro-[1,2,4]triazole-3-thione | 5.20 mmol, 1000 mg | CN1C(NN=C1C1=CC=NC=C1)=S | C8H8N4S
reactant | iodomethane | 8.32 mmol, 0.52 mL | IC | CH3I
solvent | sodium hydroxide | 1M, 10 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(4-Methyl-5-methylsulfanyl-4H-[1,2,4]triazol-3-yl)-pyridine | 1.00 g, 94% yield | CN1C(=NN=C1SC)C1=CC=NC=C1 | C9H10N4S
